US06743776B2
A solution of 1-acetyl-4-(4-hexyloxyphenyl)piperazine (14 g) in 1N HCl was refluxed for 5 hours. The reaction mixture was adjusted to pH 8 with saturated Na2CO3 aq. and extracted with ethyl acetate. The organic layer was dried over magnesium sulfate. The magnesium sulfate was filtered off, and the filtrate was evaporated under reduced pressure. To the residue was added ethyl acetate and 4N HCl in ethyl acetate (23 ml) and stirred for 1 hour. The resulting precipitate was collected by filtration to give 1-(4-hexyloxyphenyl)piperazine dihydrochloride (8.669 g).

reactant | 1-acetyl-4-(4-hexyloxyphenyl)piperazine | 14 g | C(C)(=O)N1CCN(CC1)C1=CC=C(C=C1)OCCCCCC | C18H28N2O2
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
reactant | HCl | 1N | Cl | ClH
product | 1-(4-hexyloxyphenyl)piperazine dihydrochloride | 8.669 g | Cl.Cl.C(CCCCC)OC1=CC=C(C=C1)N1CCNCC1 | InChI=1S/C16H26N2O.2ClH/c1-2-3-4-5-14-19-16-8-6-15(7-9-16)18-12-10-17-11-13-18;;/h6-9,17H,2-5,10-14H2,1H3;2*1H
